US04808624
4-Amino-5-chloro-N-[2-(diethylamino)ethyl]-2-[3-(methylthio)propoxy]benzamide
To a solution of tetrabutylammonium salt of 4-amino-5-chloro-N-[2-(diethylamino)ethyl]-2-hydroxybenzamide (10.54 g, 20 mmoles) (prepared in Preparation No. 3) in DMF (100 ml) was added 1-bromo-3-chloropropane (3.268 g, 2.2 ml, 20.76 mmoles) and the mixture stirred for 2 hours at ambient temperature and another 30 minutes at 40° C. The mixture was cooled to 0° C and poured over sodium hydride (1.0 g of 60% mineral oil dispersion, 25 mmoles, washed with n-pentane) under nitrogen. The mixture was stirred in the cold while methyl mercaptan gas was bubbled in until evolution of hydrogen ceased. The mixture was heated at 35°-40° C. for 2 hours, poured into water (700 ml) and after standing for 1 hour the resultant solid was isolated by suction to give after drying in air 7.06 g (94%) of crude product, mp. 58°-59° C. This was dissolved in methylene chloride and filtered over a short column packed with silica and alumina. The filtrate was concentrated and the residue crystallized from ether to give 4.95 g (66%) of the title compound as a white solid, mp. 79°-80° C.

reactant | 4-amino-5-chloro-N-[2-(diethylamino)ethyl]-2-hydroxybenzamide | 20 mmoles, 10.54 g | NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1Cl)O | C13H20ClN3O2
reactant | 1-bromo-3-chloropropane | 20.76 mmoles, 2.2 ml, 3.268 g | BrCCCCl | C3H6BrCl
reactant | sodium hydride | 25 mmoles, 1.0 g | [H-].[Na+]
reactant | methyl mercaptan | CS | CH4S
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 4-Amino-5-chloro-N-[2-(diethylamino)ethyl]-2-[3-(methylthio)propoxy]benzamide | 4.95 g, 66% | NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1Cl)OCCCSC | C17H28ClN3O2S
